US08314092B2
To a solution of ethyl 1-[(2-amino-5-chloro-phenyl)methyl]-4-methyl-pyrrole-2-carboxylate (20 g, 68.3 mmoles) in dimethyl sulfoxide (60 mL) add potassium t-butoxide (8.4 g, 74.9 mmoles) in DMSO (40 mL) and heat the reaction mixture to 75-80° C. for 1-2 hr. Add water (200 mL) slowly, cool to room temperature, and stir for 1-2 hr. Filter the solids, wash the filtercake with water (75 mL), and transfer the solids to a clean reaction vessel. Add THF (100 mL) and heat the reaction mixture to 30-35° C. until the solids dissolve. Add DCM (350 mL) and continue to stir at 30-35° C. for 1-2 hr. Add 1N hydrochloric acid (250 mL) and continue to stir at 30-35° C. for 1-2 hr. Separate the layers, wash the organic layer with 1N hydrochloric acid (250 mL) followed by a 25% aqueous solution of sodium chloride (50 mL), and concentrate the solution, at below 50° C., to arrive at a volume of approximately 25 mL. Add ethanol (50 mL), concentrate the solution, at below 50° C., to arrive at a volume of approximately 25 mL, and add additional ethanol (50 mL). Concentrate the solution, at below 50° C., to arrive at a volume of approximately 25 mL, heat the reaction mixture to 45-50° C., and stir for 1-2 hr. Cool the reaction mixture to 5-10° C. with stirring for 2-3 hr., and filter the resulting solids. Rinse the filtercake with ethanol (25 mL) and dry in an oven at less than 50° C. under reduced pressure to give 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one as an off-white solid (14.9 g, 99.9% purity, 88.5% yield).

reactant | ethyl 1-[(2-amino-5-chloro-phenyl)methyl]-4-methyl-pyrrole-2-carboxylate | 68.3 mmoles, 20 g | NC1=C(C=C(C=C1)Cl)CN1C(=CC(=C1)C)C(=O)OCC | C15H17ClN2O2
reactant | potassium t-butoxide | 74.9 mmoles, 8.4 g | CC(C)([O-])C.[K+]
reactant | water | 200 mL | O | H2O
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | 88.5% yield | ClC=1C=CC2=C(CN3C(C(N2)=O)=CC(=C3)C)C1 | C13H11ClN2O
